US20010027196A1
2-Amino-4-furan-2-yl-6-isopropenyl-pyrimidine-5-carbonitrile
From trifluoromethanesulfonic acid 2-amino-5-cyano-6-furan-2-yl-pyrimidin-4-yl ester, isopropenylboronic acid, tetrakis(triphenylphosphine)palladium(O) and sodium carbonate in dioxane/water. EI-MS m/e (%): 226 (M+, 74), 225 ([M—H]+, 100).

reactant | trifluoromethanesulfonic acid 2-amino-5-cyano-6-furan-2-yl-pyrimidin-4-yl ester | NC1=NC(=C(C(=N1)OS(=O)(=O)C(F)(F)F)C#N)C=1OC=CC1 | C10H5F3N4O4S
reactant | isopropenylboronic acid | C(=C)(C)B(O)O | C3H7BO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane water | O1CCOCC1.O
catalyst | tetrakis(triphenylphosphine)palladium(O) | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | 2-Amino-4-furan-2-yl-6-isopropenyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)C(=C)C | C12H10N4O
